* LC Run Test
* Model Includes and Std Cell Includes

.param mc_mm_switch=0
.param mc_pr_switch=0

* Full paths dont work apparently only relative paths
.lib ../../../../../../PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
**.include "../../PDK//open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hd/cdl/sky130_fd_sc_hd_Xyce.cdl"
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hs/spice/sky130_fd_sc_hs.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_ms/spice/sky130_fd_sc_ms.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130_fd_pr__model__inductors.model.spice
*.include ../../PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/capacitors/sky130_fd_pr__model__cap_mim.model.spice


** LC Core
.include "LC_Cell.spice"
.include "mim_1m2C.spice"

.param pvdd = 1.8
.param bias = 1.0
*.param Icurr = 1200u
.param Icurr = 760u
.param psw0 = 1.8
*.param psw1 = 1.8 
*.param psw2 = 1.8 
*.param psw3 = 1.8 
*.param psw4 = 1.8 
*.param psw5 = 1.8 
*.param psw6 = 1.8 
*.param psw7 = 1.8 



* --- Voltage Sources ---
**vvdd VDD 0 dc 'pvdd'
*vvss GND 0 dc 0
vsig VDD 0 pwl(0 0 0.10n 0 0.20n 'pvdd')
*vvdd VDD GND 'pvdd'
vsw0 sw0 0 'psw0'
*vsw1 sw1 0 'psw1'
*vsw2 sw0 0 'psw2'
*vsw3 sw1 0 'psw3'
*vsw4 sw0 0 'psw4'
*vsw5 sw1 0 'psw5'
*vsw6 sw0 0 'psw6'
*vsw7 sw1 0 'psw7'



***--Load
**Coutp outp outpndc 300f
**Coutn outn outnndc 300f
Clp outp 0 10f
Cln outn 0 10f



Idctail VDD tail_c 'Icurr'
* ---ROCell Subcircuit------
xlccore tail_c outn outp open VDD 0 LC_Cell_3
*Ibias outn outp ind_sub VDD GND
*xmim_1m2C outn outp sw7 sw6 sw5 sw4 sw3 sw2 sw1 sw0 VDD 0 mim_1m2C

** LC Circuit **
.NODESET v(outp)=0 v(outn)=1.8 v(xmim_1m2C.net1)=0 v(xmim_1m2C.net1)=0
.ic v(outn)='pvdd'
.ic v(outp)= 0
.ic v(xmim_1m2C.net1)= 0
.ic v(xmim_1m2C.net2)= 0

* --- Transient Analysis ---
.probe all
.save all
.tran 1p 100n UIC

* --- Measurement ---
*.print tran v(outp)
*.print tran v(outn)
*.print tran v(VDD)

.width out = 256
** Continous measure
**.measure tran_cont AVG tpdlh TRIG v(vi)=0.9 FALL=1 TARG v(voclk)=0.9 RISE=1
*** Single Measure

.control
run
save all
set filetype=ascii
set appendwrite TRUE
set wr_singlescale TRUE
echo "time outp outn outndc outpdc" > LC_run.out
wrdata LC_run.out v(outp) v(outn) v(outpndc) v(outnndc)
.endc

.measure tran tperiodR_P TRIG v(outpndc) val=0.9 TD=90n FALL=5 TARG v(outpndc) val=0.9 TD=90n FALL=6
.measure tran tperiodF_P TRIG v(outpndc) val=0.9 TD=90n RISE=5 TARG v(outpndc) val=0.9 TD=90n RISE=6
.measure tran tperiodR_N TRIG v(outnndc) val=0.9 TD=90n FALL=5 TARG v(outnndc) val=0.9 TD=90n FALL=6
.measure tran tperiodF_N TRIG v(outnndc) val=0.9 TD=90n RISE=5 TARG v(outnndc) val=0.9 TD=90n RISE=6


.measure tran outpmax MAX v(outp) TD=90n
.measure tran outpmin MIN v(outp) TD=90n
.measure tran outp_p2p PP v(outp) TD=90n
.measure tran outnmax MAX v(outn) TD=90n
.measure tran outnmin MIN v(outn) TD=90n
.measure tran outp_p2p PP v(outn) TD=90n

.end
